US03971773
D. 21-Chloro-11β,17-dihydroxy-16α-(2-oxopropoxy)pregna-1,4-diene-3,20-dione
A solution of 21-chloro-11β,17-dihydroxy-16α-[(2-methyloxiranyl)methoxy]pregna-1,4-diene-3,20-dione (12 mmoles) in 200 ml of tetrahydrofuran is stirred with a solution of 10 g of periodic acid in 20 ml of water for 3 hours. The slurry is diluted with water and extracted with chloroform. The chloroform solution is dried and evaporated in vacuo to give the title compound.

reactant | 21-chloro-11β,17-dihydroxy-16α-[(2-methyloxiranyl)methoxy]pregna-1,4-diene-3,20-dione | 12 mmoles | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCC1(OC1)C)O)=O | C25H33ClO6
reactant | periodic acid | 10 g | I(=O)(=O)(=O)O | HIO4
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 21-Chloro-11β,17-dihydroxy-16α-(2-oxopropoxy)pregna-1,4-diene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCC(C)=O)O)=O | C24H31ClO6
